US04722929
(b) 8-(2-Methoxy-4-methylmercapto-phenyl)-purin-2,6-dione
Two grams of 4-amino-5-(2-methoxy-4-methylmercapto-benzoylamino)-pyrimidin-2,6-dione are refluxed for 21 hours with 50 ml of ethanol and 50 ml of 2N sodium hydroxide solution. After about 15 minutes, a solution is formed. After cooling, the solution is suction filtered with glacial acetic acid, washed with water, and dried at 70° C. in a circulating air drier. The crude product thus obtained is purified by chromatography on silica gel [eluant: methylene chloride/ethanol (19:1, 9:1, 4:1 and ethanol)].

reactant | 4-amino-5-(2-methoxy-4-methylmercapto-benzoylamino)-pyrimidin-2,6-dione | Two grams | NC=1NC(NC(C1NC(C1=C(C=C(C=C1)SC)OC)=O)=O)=O | C13H14N4O4S
reactant | sodium hydroxide | 2N, 50 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 8-(2-Methoxy-4-methylmercapto-phenyl)-purin-2,6-dione | COC1=C(C=CC(=C1)SC)C1=NC2=NC(NC(C2=N1)=O)=O | C13H10N4O3S
